US05210076
The other pathway from dopaquinone to melanin involves the addition of cysteine to dopaquinone to produce 5-S-cysteinyldopa, followed by the oxidation of 5-S-cysteinyldopa to 5-S-cysteinyldopaquinone. A ring closure of the 5-S-cysteinyldopaquinone then yields 7-alanyl-5-hydroxy-3-carboxy-2H-1,4-benzothiazine which is subsequently decarboxylated to yield 7-alanyl-5-hydroxy-2H-1,4-benzothiazine. At this point, the 7-alanyl-5-hydroxy-2H-1,4-benzothiazine is converted to melanin and pheomelanin. Tyrosinase does not play any additional role in this melanin production pathway.

reactant | 5-S-cysteinyldopa | C1=C(C=C(C(=C1O)O)SCC(C(=O)O)N)CC(C(=O)O)N | C12H16N2O6S
reactant | 7-alanyl-5-hydroxy-3-carboxy-2H-1,4-benzothiazine | N[C@@H](C)C(=O)C1=CC2=C(N=C(CS2)C(=O)O)C(=C1)O | C12H12N2O4S
product | 7-alanyl-5-hydroxy-2H-1,4-benzothiazine | N[C@@H](C)C(=O)C1=CC2=C(N=CCS2)C(=C1)O | C11H12N2O2S
